US04044141
Analogously to Example 1 heating a solution of 75 mmols of 3'-nitrobenzylideneacetoacetic acid methyl ester and 75 mmols of β-aminocrotonic acid 4-methylbenzyl ester in 120 ml of ethanol gave 2,6-dimethyl-3-methoxycarbonyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-5-carboxylic acid 4-methylbenzyl ester of melting point 112° C (from ethanol).

reactant | 2,6-dimethyl-3-methoxycarbonyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-5-carboxylic acid 4-methylbenzyl ester | CC1=CC=C(COC(=O)C=2C(C(=C(NC2C)C)C(=O)OC)C2=CC(=CC=C2)[N+](=O)[O-])C=C1 | C24H24N2O6
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | β-aminocrotonic acid 4-methylbenzyl ester | 75 mmols | CC1=CC=C(COC(\C=C(\C)/N)=O)C=C1 | C12H15NO2
